US09255090B2
A solution of 4-bromo-2-isopropyl-phenol (1.98 g, 9.1 mmol, 1.0 eq.) in DMF (27 mL) was slowly added to sodium hydride 60% dispersion in mineral oil (476 mg, 11.9 mmol, 1.3 eq.) at 0° C. under N2. Upon completion of the addition, the mixture was allowed to warm to r.t. Benzyl bromide (1.1 mL, 9.1 mmol, 1.0 eq.) was added and the resulting mixture was stirred at r.t. for 18 hours. AcOEt was added and the reaction was stirred for 30 min. Water was added to the mixture. The layers were separated and the org. phase was washed with water and sat. aq. NaCl soln., dried over MgSO4, filtered, and concentrated in vacuo. To a solution of the residue in dioxane (75 mL), a solution of 2-tert-butoxy-2-oxoethylzinc chloride (33.9 mL, 17 mmol, 1.8 eq.) and bis(tri-tert-butylphosphine)palladium(0) (739 mg, 1.42 mmol, 0.15 eq) were added. The resulting mixture was stirred at r.t. for 18 hours. The mixture was filtered through Celite and the filter cake was rinsed with dioxane. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane 100% to Heptane+12% AcOEt) to yield (4-benzyloxy-3-isopropyl-phenyl)-acetic acid tert-butyl ester as a colorless oil.

reactant | 4-bromo-2-isopropyl-phenol | 9.1 mmol, 1.98 g, 1.0 eq. | BrC1=CC(=C(C=C1)O)C(C)C | C9H11BrO
reactant | sodium hydride | [H-].[Na+]
reactant | Benzyl bromide | 9.1 mmol, 1.1 mL, 1.0 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-tert-butoxy-2-oxoethylzinc chloride | 17 mmol, 33.9 mL, 1.8 eq. | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
solvent | DMF | 27 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 1.42 mmol, 739 mg, 0.15 eq | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | Water | O | H2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (4-benzyloxy-3-isopropyl-phenyl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)C)=O | C22H28O3
